US07253205B2
(RS)-α-(3-Butenyl)-N-(4-oxo-1-phenylcyclohexyl)-3,5-bis(trifluoromethyl)-benzeneacetamide
Oxalyl chloride (4.22 mL, 48.4 mmol) was added to a solution of (RS)-α-(3-butenyl)-3,5-bis(trifluoromethyl)benzeneacetic acid (Description 8, 24.2 mmol) and dimethylformamide (0.1 mL) in dichloromethane (80 mL) and the mixture was stirred at room temperature for 3 hours. The solvent was evaporated under reduced pressure and toluene was added and evaporated under reduced pressure. The residue was dissolved in dichloromethane (50 mL) and added to a stirred, cooled (0° C.) solution of 4-oxo-1-phenylcyclohexylamine hydrochloride (Description 3, 4.58 g, 24.2 mmol) in dichloromethane (150 mL). Pyridine (4.1 mL, 50.8 mmol) was added and the mixture was stirred at room temperature overnight. The mixture was washed with hydrochloric acid (1M, 2×200 mL), saturated aqueous sodium hydrogen carbonate (2×200 mL) and brine (200 mL), dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was triturated with isohexane/diethylether (7:1) and the solid was collected and dried in vacuo. The solid was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (2:1), to give the title compound (6.22 g, 52%). 1H NMR (400 MHz, CDCl3) δ 7.80 (1H, s), 7.73 (2H, s), 7.31-7.25 (5H, m), 5.80-5.70 (2H, m), 5.05-4.97 (2H, m), 3.52-3.47 (1H, m), 2.86-2.80 (1H, m), 2.65-2.57 (1H, m), 2.50-2.31 (6H, m), 2.27-2.18 (1H, m), 2.09-1.95 (2H, m), and 1.81-1.72 (1H, m).

reactant | Oxalyl chloride | 48.4 mmol, 4.22 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (RS)-α-(3-butenyl)-3,5-bis(trifluoromethyl)benzeneacetic acid | 24.2 mmol | C(CC=C)C(C(=O)O)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C14H12F6O2
reactant | 4-oxo-1-phenylcyclohexylamine hydrochloride | 24.2 mmol, 4.58 g | Cl.O=C1CCC(CC1)(C1=CC=CC=C1)N
reactant | Pyridine | 50.8 mmol, 4.1 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | dimethylformamide | 0.1 mL | CN(C=O)C | C3H7NO
product | (RS)-α-(3-Butenyl)-N-(4-oxo-1-phenylcyclohexyl)-3,5-bis(trifluoromethyl)-benzeneacetamide | 6.22 g, 52% | C(CC=C)C(C(=O)NC1(CCC(CC1)=O)C1=CC=CC=C1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C26H25F6NO2
